US06753392B1
31.7 g (0.41 mol) of acetyl chloride were added dropwise to a two-necked round-bottomed flask, cooled in an ice bath, equipped with a reflux condenser (connected to a trap comprising potassium carbonate) and comprising 50.1 g (0.36 mol) of 4,5,5-trifluoropent-4-en-1-ol. The reactivity of the two reactants was monitored by sparging of the trap by HCl. After the completion of the addition, the mixture was stirred at ambient temperature until HCl was no longer being evolved (approximately 4 hours). After distillation, 59.3 g (0.326 mol) of 4,5,5-trifluoro-4-pentenyl acetate (colourless liquid) were obtained. Boiling point=56-58° C./21 mmHg. (Yield=91%.).

reactant | acetyl chloride | 0.41 mol, 31.7 g | C(C)(=O)Cl | C2H3ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5,5-trifluoropent-4-en-1-ol | 0.36 mol, 50.1 g | FC(CCCO)=C(F)F | C5H7F3O
product | 4,5,5-trifluoro-4-pentenyl acetate | 0.326 mol, 59.3 g, Yield=91% | C(C)(=O)OCCCC(=C(F)F)F | C7H9F3O2
